US05830915
D-alanine methyl ester (1.5 g, 10.75 mmol) is taken up in 50 mL methanol and is cooled to 0° C. To this is added hexanal (1.3 mL, 10.75 mmol) followed by sodium acetate (2.62 g, 32 mmol). After stirring for 15 minutes at 0° C. sodium cyanoborohydride (440 mg, 7 mmol) is added and the mixture is stirred for further 16 hours at room temperature. The methanol is evaporated and the resulting residue is taken up in ether and is transferred to a separatory funnel, washed with water (2×), dried over sodium sulfate, and is evaporated to give 1.81 g of N-hexyl-D-alanine methyl ester as a colorless oil.

reactant | D-alanine methyl ester | 10.75 mmol, 1.5 g | COC([C@H](N)C)=O | C4H9NO2
reactant | hexanal | 10.75 mmol, 1.3 mL | C(CCCCC)=O | C6H12O
reactant | sodium acetate | 32 mmol, 2.62 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 7 mmol, 440 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | N-hexyl-D-alanine methyl ester | 1.81 g | COC([C@H](NCCCCCC)C)=O | C10H21NO2
